US06100260
(R)-3-[1-(2-Fluoro-biphenyl-4-yl)-ethyl]-isoxazol-5-ylamine
Under a nitrogen atmosphere, tert-butyl cyanoacetate (0.57 ml) was added dropwise to a mixture of tetrahydrofuran (5 ml) and sodium hydride (160 mg, 60% oily) with stirring under ice-cooling. The resulting mixture was stirred for 10 minutes under ice-cooling, then stirred at room temperature for 20 minutes, and again stirred at 0° C. Separately, isobutyl chloroformate (0.26 ml) was added dropwise to a tetrahydrofuran solution (20 ml) of (R)-2-(2-fluoro-biphenyl-4-yl)-propionic acid (449 mg, 93% e.e.) and N-methylmorpholine (0.22 ml) at -15° C. with stirring. After 5 minutes, this solution was added dropwise to the previous mixture. After 20 minutes, this was poured into a saturated aqueous sodium bicarbonate solution and the resulting mixture was subjected to extraction with ethyl acetate. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure. To the viscous residue thus obtained were added hydroxylamine hydrochloride (278 mg) and ethanol (10 ml), and the resulting mixture was stirred for 4 hours with heating under reflux. After cooling to room temperature, ethanol was removed by distillation, and a saturated aqueous sodium bicarbonate solution was added to the residue and the resulting mixture was subjected to extraction with ethyl acetate. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate=3/2), to obtain the desired compound (226 mg, 93% e.e.).

reactant | tert-butyl cyanoacetate | 0.57 ml | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | isobutyl chloroformate | 0.26 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (R)-2-(2-fluoro-biphenyl-4-yl)-propionic acid | 449 mg | FC1=C(C=CC(=C1)[C@H](C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | N-methylmorpholine | 0.22 ml | CN1CCOCC1 | C5H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 278 mg | Cl.NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (R)-3-[1-(2-Fluoro-biphenyl-4-yl)-ethyl]-isoxazol-5-ylamine | 226 mg | FC1=C(C=CC(=C1)[C@@H](C)C1=NOC(=C1)N)C1=CC=CC=C1 | C17H15FN2O
